US07166598B2
To N-(2-hydroxy-1,1-dimethylethyl)-3-iodo-5-(trifluromethyl)benzamide (2.11 g) was added thionyl chloride (1.29 ml), and the mixture was stirred at room temperature for 4 hours. The mixture was concentrated under reduced pressure, quenched with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate (X2). The combined extracts were dried over magnesium sulfate, evaporated, and purified with column chromatography (silica gel, ethyl acetate:hexane=2.5:97.5) to give 2-[3-iodo-5-(trifluoromethyl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole (1.66 g) as a solid.

reactant | N-(2-hydroxy-1,1-dimethylethyl)-3-iodo-5-(trifluromethyl)benzamide | 2.11 g | OCC(C)(C)NC(C1=CC(=CC(=C1)C(F)(F)F)I)=O | C12H13F3INO2
reactant | thionyl chloride | 1.29 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-[3-iodo-5-(trifluoromethyl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole | 1.66 g | IC=1C=C(C=C(C1)C(F)(F)F)C=1OCC(N1)(C)C | C12H11F3INO
